* test case for finger parameterization
.lib ./sm141064.spice typical
.inc ./design.spice
.param lx=0.28e-6 wx=120e-6 nfx=12

*** THIS WORKS
XM1 0 0 0 0 nfet_03v3 L={lx} W={wx} nf=12 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1

*** THIS DOES NOT WORK
XM2 0 0 0 0 nfet_03v3 L={lx} W={wx} nf={nfx} ad='int(({nfx}+1)/2) * W/{nfx} * 0.18u' as='int(({nfx}+2)/2) * W/{nfx} * 0.18u' pd='2*int(({nfx}+1)/2) * (W/{nfx} + 0.18u)'
+ ps='2*int(({nfx}+2)/2) * (W/{nfx} + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1

*** THIS DOES NOT WORK
XM3 0 0 0 0 nfet_03v3 L={lx} W={wx} nf={nfx} ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1

.control
  save @m.xM1.m0[id]
  op
  show
.endc
.end

