*****************
** main netlist
*****************

Vcp c 0 dc -3
Vbp b 0 dc -1.2

xq1 c b 0 {{device}}


*****************
** Analysis
*****************

.DC Vbp -0.2 -1.2 -0.01 Vcp -1 -3 -1
.STEP TEMP {{temp}} -60 200

.print DC FORMAT=CSV file=bjt_beta_reg/pnp/simulated_Ib/t{{temp}}_simulated_{{device}}.csv {I(Vbp)} v(b) v(c)


.include "../../../design.spice"
.lib "../../../sm141064.spice" bjt_typical

.end
